US07939529B2
coupling 4-(2-(4-bromophenoxy)ethyl)morpholine with 6-fluoropyridin-3-yl-3-boronic acid to yield 4-(2-(4-(6-fluoropyridin-3-yl)phenoxy)ethyl)morpholine;

reactant | 4-(2-(4-bromophenoxy)ethyl)morpholine | BrC1=CC=C(OCCN2CCOCC2)C=C1 | C12H16BrNO2
reactant | 6-fluoropyridin-3-yl-3-boronic acid | B(C1=CN=C(C=C1)F)(O)O | C5H5BFNO2
product | 4-(2-(4-(6-fluoropyridin-3-yl)phenoxy)ethyl)morpholine | FC1=CC=C(C=N1)C1=CC=C(OCCN2CCOCC2)C=C1 | C17H19FN2O2
